US09023847B2
79. 5-Methyl-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzylamino-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using N-benzylethylenediamine instead of 1-BOC-3-aminopyrrolidine and 5-Methyl-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid instead of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid. LCMS (ESI) 406 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.39 (1H, s) 8.02 (1H, d, J=5.42 Hz) 7.87 (1H, t, J=5.54 Hz) 7.26-7.36 (7H, m) 7.18-7.26 (1H, m) 6.83 (1H, d, J=5.47 Hz) 6.42 (1H, dd, J=3.47, 1.85 Hz) 3.76 (2H, s) 3.36 (2H, q, J=6.30 Hz) 2.69 (2H, t, J=6.39 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | N-benzylethylenediamine | C(C1=CC=CC=C1)NCCN | C9H14N2
reactant | 5-Methyl-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid | CC1=CC(=C(S1)C(=O)O)NC1=C2C(=NC=C1)NC=C2 | C13H11N3O2S
product | 5-Methyl-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzylamino-ethyl)-amide | C(C1=CC=CC=C1)NCCNC(=O)C=1SC(=CC1NC1=C2C(=NC=C1)NC=C2)C | C22H23N5OS
